data/pmechdb/original/mc_train_fold0/raw/train.txt
CC[O:21][C:20]1(CN(CC2=C(N1)C=CC(=C2)Cl)C(=O)OC(C)(C)C)[O-:10]>>CC[O-:21].CC(C)(C)OC(=O)N1CC2=C(C=CC(=C2)Cl)N[C:20](=[O:10])C1 10=20;20,21=21
CC1=CC=C(C=C1)[S:20](=O)(=[O:21])Cl.CN(C)C1=CC=[N:10]C=C1.CC1(CC(C2(CC3=COC=C3C=C2C1)O)O)C.C1=CC=NC=C1>>CC1=CC=C(C=C1)[S:20](=O)([N+:10]2=CC=C(C=C2)N(C)C)([O-:21])Cl.CC1(CC(C2(CC3=COC=C3C=C2C1)O)O)C.C1=CC=NC=C1 10=20;20,21=21
[H:20][C:21](C(C(C(C(C(CO)O)O)O)O)O)(C(=O)C)[C:22](=[O:23])C.C(=O)(O)[O-:10].[Na+]>>[H:20][O:10]C(=O)O.C[C:22](=[C:21](C(C(C(C(C(CO)O)O)O)O)O)C(=O)C)[O-:23].[Na+] 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].C1=CC=[C:10](C(=C1)CO[AlH3-])[Mg:11]Br>>[H:20][C:10]1=CC=CC=C1CO[AlH3-].[OH2:21].[Mg+:11]Br 10,11=10,20;20,21=21
[CH2:20]=[NH2+:21].[I-:10]>>[CH2:20]([NH2:21])[I:10] 10=20;20,21=21
C1[CH2:10][CH:11]1[CH2:20][N+:21]#N>>N#[N:21].[CH2:10]1C[CH+:11][CH2:20]1 10,11=10,20;20,21=21
CC1(C2CCC(C2)([C:11]1=[CH2:10])O)C.C1CC(=O)[N:21](C1=O)[Br:20]>>CC1(C2CCC(C2)([C+:11]1[CH2:10][Br:20])O)C.C1CC(=O)[N-:21]C1=O 10,11=10,20;20,21=21
[B-]([O+:21]1CC[O:10][C:20]12CCCCCC3C2(C4=CC=CC=C34)O)(F)(F)F.CC[SiH](CC)CC>>[B-]([O:21]CC[O+:10]=[C:20]1CCCCCC2C1(C3=CC=CC=C23)O)(F)(F)F.CC[SiH](CC)CC 10=20;20,21=21
CC1=CC=C(C=C1)S(=O)(=O)[O:21][N:20]=C([CH2-:10])C2=CN=CC=C2.CO.C[OH+][K]>>CC1=CC=C(C=C1)S(=O)(=O)[O-:21].[CH2:10]1C(=[N:20]1)C2=CN=CC=C2.CO.C[OH+][K] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CNC(=[O:10])CC#N>>[H:20][O+:10]=C(CC#N)NC.OS(=O)(=O)[O-:21] 10=20;20,21=21
[H:20][CH:21](CC(C(C)C)Cl)[C+:22](C)C.CC[OH:10]>>[H:20][OH+:10]CC.CC(C)C(C[CH:21]=[C:22](C)C)Cl 10=20;20,21=21,22
[B-]([O+:21]=[CH:20]C(C)CC=CI)(F)(F)F.C[CH:10]=[C:11](C(C)C(C(C)C1C(C(O[Si](O1)(C(C)C)C(C)C)C(C)CO[Si](C)(C)C(C)(C)C)C)O[Si](C)(C)C(C)(C)C)[O:12][Si](C)(C)C(C)(C)C.CCOCC>>[B-]([O:21][CH:20](C(C)CC=CI)[CH:10](C)[C:11](=[O+:12][Si](C)(C)C(C)(C)C)C(C)C(C(C)C1C(C(O[Si](O1)(C(C)C)C(C)C)C(C)CO[Si](C)(C)C(C)(C)C)C)O[Si](C)(C)C(C)(C)C)(F)(F)F.CCOCC 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CC(=[O:10])CCC(=O)C1=CC=CC=C1.OS(=O)(=O)[O-]>>[H:20][O+:10]=C(C)CCC(=O)C1=CC=CC=C1.[OH2:21].OS(=O)(=O)[O-] 10=20;20,21=21
[H:20][O+:21]=C1CCC2C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3.COC1CC2C3CC4=C(C2(CC[NH:10]3)CC1=O)C(=C(C=C4)OC)O.CO.CS(=O)(=O)[O-]>>[H:20][NH+:10]1CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC.COC1=C2C3=C(CC4C5C3(CCN4)C(O2)C(=[O:21])CC5)C=C1.CO.CS(=O)(=O)[O-] 10=20;20,21=21
C[NH:10]C.COC(=O)C(=[Cu:20])C1=CC=CC=C1>>C[NH+:10](C)[Cu-:20]=C(C1=CC=CC=C1)C(=O)OC 10=20,
CC(=CCC[C:10](=[CH:11]CCC(=C[CH2+:20])C)C)C.O.[O-]P1(=O)O[Mg]OP(=O)(O1)[O-]>>CC1=C[CH2:20][C:10]([CH+:11]CC1)(C)CCC=C(C)C.O.[O-]P1(=O)O[Mg]OP(=O)(O1)[O-] 10,11=10,20
CC(C)(C)[Si:20](C)(C)C.CS(=O)(=O)[O-:10]>>CC(C)(C)[Si-:20](C)(C)(C)[O:10]S(=O)(=O)C 10=20,
[H:20][OH+:21]C(C)(C)OCC(COC(=O)CCCCCCCC=CCCCCCCCC)O.C(=O)(C(F)(F)F)[O-:10].C1CCOC1.O>>[H:20][O:10]C(=O)C(F)(F)F.CCCCCCCCC=CCCCCCCCC(=O)OCC(COC(C)(C)[OH:21])O.C1CCOC1.O 10=20;20,21=21
CO[C:11]1=[CH:10]OC=C1.[Br:20][Br:21]>>CO[C+:11]1C=CO[CH:10]1[Br:20].[Br-:21] 10,11=10,20;20,21=21
C1CC[CH:10](CC1)[OH2+:11].C=CC#N.O>>C1CC[CH+:10]CC1.[OH2:11].C=CC#N.O 10,11=11
CC(C)CC1CC[C:11]([CH2:10]1)([CH2:20][N+:21]#N)[OH:12].O.[Cl-]>>CC(C)CC1CC[C:11](=[OH+:12])[CH2:20][CH2:10]1.N#[N:21].O.[Cl-] 10,11=10,20;20,21=21;12=11
C[Mg-]([P:10](C)(Cl)(Cl)[Cl:11])Br>>C[Mg-]([P+:10](C)(Cl)Cl)Br.[Cl-:11] 10,11=11
[H:20][OH2+:21].C[N-:12][CH:11]=[CH:10]CC#N>>[H:20][CH:10](CC#N)[CH:11]=[N:12]C.[OH2:21] 10,11=10,20;20,21=21;12=11
CCN[C:20](=[OH+:21])C.CC[OH:10]>>CCN[C:20](C)([OH:21])[OH+:10]CC 10=20;20,21=21
C1C[C:11](=[CH:10][C:20](C1)(C#N)[Cl:21])[O-:12]>>C1C[C:20](=[CH:10][C:11](=[O:12])C1)C#N.[Cl-:21] 10,11=10,20;20,21=21;12=11
CCCC[C:20](=[O:21])C(C)CCC1CCCC1.CCC(C1CCCCC1)[NH:10]CC.[BH3-]C#N.CCC(C1CCCCC1)[NH2+]CC.[Na+]>>CCCC[C:20](C(C)CCC1CCCC1)([NH+:10](CC)C(CC)C2CCCCC2)[O-:21].[BH3-]C#N.CCC(C1CCCCC1)[NH2+]CC.[Na+] 10=20;20,21=21
CC1=CO[CH:10]=[CH:11]1.[N+:20](=O)=[O:21]>>CC1=CO[CH:10]([CH+:11]1)[N+:20](=O)[O-:21] 10,11=10,20;20,21=21
CC[NH-:10].[AlH3:20]>>CC[NH:10][AlH3-:20] 10=20,
[Li:11][CH3:10].[Li][P+:20](Cl)(Cl)Cl>>[Li+:11].[Li][P:20]([CH3:10])(Cl)(Cl)Cl 10,11=10,20
[B-:10](O)([O:11]C1=C2C3=C(CC4C5(C3(CCN4C)C(O2)C(=O)CC5)O)C=C1)(Br)Br.CBr.O>>[B:10](O)(Br)Br.CN1CCC23C4C(=O)CCC2(C1CC5=C3C(=C(C=C5)[O-:11])O4)O.CBr.O 10,11=11
[H:20][N+:21]1(CCC(=O)CC1)C.CC(C)O[Al-](OC1CCC2(C3CCC4(C(C3CC=C2C1)CCC4=O)C)O)(OC(C)C)[O:10]C(C)C>>[H:20][O+:10](C(C)C)[Al-](OC1CCC2(C3CCC4(C(C3CC=C2C1)CCC4=O)C)O)(OC(C)C)OC(C)C.C[N:21]1CCC(=O)CC1 10=20;20,21=21
[H:20][CH:21]1C=C([NH+:23]=[C:22]1C2=CC(=CC(=C2)C3=CC=C(N3)C)C4=CC=C(N4)C)C.CC(=O)[O-:10].C(=O)[O-].O>>CC1=CC=C(N1)C2=CC(=CC(=C2)C3=CC=C(N3)C)[C:22]4=[CH:21]C=C([NH:23]4)C.[H:20][O:10]C(=O)C.C(=O)[O-].O 10=20;22,23=23;20,21=21,22
CCC[CH+:20][C:10](C)(C=NC(C)(C)C)[Si-:11](CC)(CC)(CC)OC(=O)C(F)(F)F.O>>CCC[CH:20]=[C:10](C)C=NC(C)(C)C.CC[Si:11](CC)(CC)OC(=O)C(F)(F)F.O 10,11=10,20
[H:20][C:21]1(CCC2CC(C1OC2=O)C)[C:22](=[O:23])OC.C[O-:10]>>[H:20][O:10]C.CC1CC2CC[C:21](=[C:22]([O-:23])OC)C1OC2=O 10=20;22,23=23;20,21=21,22
